US09260441B2
Step A: tert-Butyl 4-(4-methyl-2-pyridyl)-1,4-diazepane-1-carboxylate
2-Bromo-4-methylpyridine (400 mg, 2.326 mmol), tert-butyl 1,4-diazepane-1-carboxylate (2.1 g, 10.5 mmol) and potassium carbonate (2.8 g, 20 mmol) were combined in anhydrous DMF (20 ml) and heated under microwave heating at 140° C. for 5 hours. The mixture was poured into water and extracted with ethyl acetate (4×). The combined organic layers were washed with brine (2×) and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was purified two times by column chromatography (silica, gradient from 0 to 50% ethyl acetate in heptane) to yield 97 mg (0.33 mmol, 14%). MS (ESI) m/z=292.2 [M+1]+.

reactant | 2-Bromo-4-methylpyridine | 2.326 mmol, 400 mg | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | tert-butyl 1,4-diazepane-1-carboxylate | 10.5 mmol, 2.1 g | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | potassium carbonate | 20 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(4-methyl-2-pyridyl)-1,4-diazepane-1-carboxylate | CC1=CC(=NC=C1)N1CCN(CCC1)C(=O)OC(C)(C)C | C16H25N3O2
